US08242104B2
10-chloro-2-(1-isopropyl-1H-1,2,4-triazol-5-yl)-5,6-dihydroimidazo[1,2-d]pyrido[4,3-f][1,4]oxazepine
A mixture of 660 mg (2.06 mmol) of 10-chloro-N-((dimethylamino)methylene)-5,6-dihydroimidazo[1,2-d]pyrido[4,3-f][1,4]oxazepine-2-carboxamide and isopropylhydrazine hydrochloride (0.332 g, 3.00 mmol) in 44 ml of acetic acid was heated at 85° C. for 3 hours. The mixture was cooled, filtered and mixed with 15 ml of water. A precipitate was filtered out, washed with water and dried in high vacuum. The above solid was triturated with 10 ml of ethyl acetate, filtered out, washed with ethyl acetate, ethyl ether and dried on air. Yield 0.710 g. MS: 331.2. 1H NMR (500 MHz, DMSO) δ 8.26 (s, 1H), 8.20 (s, 1H), 8.11 (s, 1H), 7.96 (s, 1H), 5.76 (dt, J=13.1, 6.6, 1H), 4.62 (q, J=5.6, 4H), 1.50 (d, J=6.6, 6H).

reactant | 10-chloro-N-((dimethylamino)methylene)-5,6-dihydroimidazo[1,2-d]pyrido[4,3-f][1,4]oxazepine-2-carboxamide | 2.06 mmol, 660 mg | ClC1=CC=2C=3N(CCOC2C=N1)C=C(N3)C(=O)N=CN(C)C | C14H14ClN5O2
reactant | isopropylhydrazine hydrochloride | 3.00 mmol, 0.332 g | Cl.C(C)(C)NN
solvent | acetic acid | 44 ml | C(C)(=O)O | C2H4O2
product | 10-chloro-2-(1-isopropyl-1H-1,2,4-triazol-5-yl)-5,6-dihydroimidazo[1,2-d]pyrido[4,3-f][1,4]oxazepine | ClC1=CC=2C=3N(CCOC2C=N1)C=C(N3)C3=NC=NN3C(C)C | C15H15ClN6O
